US04282388
396.0 g. (4.5 mol) of cis-1,2-cyclobutanediol and 650.3 g (4.5 mol) of 2-fluorobenzyl chloride were dissolved in 2.5 liters of dimethylsulphoxide, and 270 g (6.75 mol) of sodium hydroxide powder were added in portions at room temperature, whilst cooling with ice. The mixture was stirred at room temperature for 6 hours and 958.5 g (6.75 mol) of methyl iodide and, in portions, 270 g (6.75 mol) of sodium hydroxide powder were then added, whilst cooling. Thereafter, the reaction mixture was again stirred at room temperature for 6 hours and discharged onto 10 liters of ice-water. The mixture was extracted three times with 5 liters of petroleum ether each time and the combined organic phases were dried over sodium sulphate and concentrated by distilling off the solvent. 840 g (88.9% of theory) of cis-1-(2-fluorobenzyloxy)-2-methoxy-cyclobutane of refractive index nD21 =1.4948 were obtained.

reactant | cis-1,2-cyclobutanediol | 4.5 mol | [C@@H]1([C@H](CC1)O)O | C4H8O2
reactant | 2-fluorobenzyl chloride | 4.5 mol, 650.3 g | FC1=C(CCl)C=CC=C1 | C7H6ClF
reactant | sodium hydroxide | 6.75 mol, 270 g | [OH-].[Na+]
reactant | methyl iodide | 6.75 mol, 958.5 g | CI | CH3I
reactant | sodium hydroxide | 6.75 mol, 270 g | [OH-].[Na+]
solvent | dimethylsulphoxide | 2.5 liters | CS(=O)C | C2H6OS
product | cis-1-(2-fluorobenzyloxy)-2-methoxy-cyclobutane | 840 g, 88.9% | FC1=C(CO[C@H]2[C@H](CC2)OC)C=CC=C1 | C12H15FO2
